US06265585B1
Preparation of 2-chloro-5-methylsulfonyloxymethyl-thiazole:
1.28 g of methanesulfonic anhydride are added to 1.0 g of 2-chloro-5-hydroxymethyl-thiazole and 0.63 g of pyridine in 10 ml of tetrahydrofuran and the mixture is stirred for three hours at room temperature. Concentration of the solution yields the title compound in the form of a solid (compound 1.3). 1H-NMR (DMSO-d6, 250 MHz): s, 1H, 7.87 ppm; s, 2H, 5.52 ppm; s, 3H, 2.43 ppm.

reactant | methanesulfonic anhydride | 1.28 g | CS(=O)(=O)OS(=O)(=O)C | C2H6O5S2
reactant | 2-chloro-5-hydroxymethyl-thiazole | 1.0 g | ClC=1SC(=CN1)CO | C4H4ClNOS
reactant | pyridine | 0.63 g | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-chloro-5-methylsulfonyloxymethyl-thiazole | ClC=1SC(=CN1)COS(=O)(=O)C | C5H6ClNO3S2
